US09126974B2
N-(1-acetyl-1H-pyrazol-4-yl)acetamide
A 250-mL 3-neck flask was charged with 1H-pyrazol-4-amine (5 g, 60.2 mmol) and dichloromethane (50 mL). The resulting suspension was cooled to 5° C. and triethylamine (TEA, 9.13 g, 90.0 mmol) was added, followed by acetic anhydride (7.37 g, 72.2 mmol) at <20° C. The reaction was stirred at room temperature for 18 hours, at which point thin layer chromatography [Eluent: ethyl acetate] analysis indicated that the reaction was incomplete. Additional triethylamine (4.57 g, 45.0 mmol) and acetic anhydride (3.70 g, 36.0 mmol) were added and the reaction was heated at 30° C. for an additional 3 hours to give a dark solution, at which point thin layer chromatography analysis indicated that only a trace of starting material remained. The reaction mixture was purified by flash column chromatography using ethyl acetate as eluent. The fractions containing pure product were combined and concentrated to dryness to afford an off-white solid. The solid was dried under vacuum at room temperature for 18 hours (5.55 g, 55%): 1H NMR (400 MHz, DMSO-d6) δ 10.30 (s, 1H), 8.39 (d, J=0.7 Hz, 1H), 7.83 (d, J=0.7 Hz, 1H), 2.60 (s, 3H), 2.03 (s, 3H); EIMS m/z 167 ([M]+).

reactant | 1H-pyrazol-4-amine | 60.2 mmol, 5 g | N1N=CC(=C1)N | C3H5N3
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
reactant | triethylamine | 90.0 mmol, 9.13 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 72.2 mmol, 7.37 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 45.0 mmol, 4.57 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 36.0 mmol, 3.70 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-acetyl-1H-pyrazol-4-yl)acetamide | C(C)(=O)N1N=CC(=C1)NC(C)=O | C7H9N3O2
